US04902700
Synthesis of 2-(trans-3-hydroxystyryl)-4ethyl-5-methylthiazole
An amount of 3.0 g of 2-(trans-3-aminostyryl)-4-ethyl-5-methylthiazole was added to 18 ml of 20% hydrochloric acid and to the mixture was added dropwise slowly 3 ml of an aqueous solution of 0.86 g of sodium nitrite while maintaining the inner temperature at 4° to 5° C. After the mixture was stirred at the above temperature for 1.5 hours, the reaction mixture was added into 50 ml of boiling water over 20 minutes. After the mixture was cooled to room temperature, the precipitates formed were collected by filtration, washed with aqueous saturated sodium hydrogen carbonate solution and with water, followed by drying under reduced pressure. The crude product was washed with toluene and dried under reduced pressure to obtain 2.1 g (yield 70%) of the title compound.

reactant | 2-(trans-3-aminostyryl)-4-ethyl-5-methylthiazole | 3.0 g | NC=1C=C(/C=C/C=2SC(=C(N2)CC)C)C=CC1 | C14H16N2S
reactant | hydrochloric acid | 18 ml | Cl | ClH
reactant | sodium nitrite | 0.86 g | N(=O)[O-].[Na+]
solvent | water | 50 ml | O | H2O
product | 2-(trans-3-hydroxystyryl)-4ethyl-5-methylthiazole | 2.1 g, yield 70% | OC=1C=C(/C=C/C=2SC(=C(N2)CC)C)C=CC1 | C14H15NOS
